US05731452
Using as materials (1E,3S,5R)-1-iodo-3-(tert-butyldimethylsiloxy)-5-methyl-1-nonene (476 mg, 1.2 mmol), tert-butyllithium (1.54 mol/l, 1.56 ml, 2.4 mmol), 1-hexynylcopper (174 mg), hexamethylphosphorous triamide (436 μl), (4R)-4-(tert-butyldimethylsiloxy)-2-(5-methoxycarbonylpentylthio)-2-cyclopenten-1-one (373 mg, 1.0 mmol), and benzoic anhydride (611 mg), the same procedure was performed as in Example 1 to obtain methyl (11R,12S,13E,15S,17R)-9-benzoyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate (734 mg, 98%).

reactant | (1E,3S,5R)-1-iodo-3-(tert-butyldimethylsiloxy)-5-methyl-1-nonene | 1.2 mmol, 476 mg | I\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C16H33IOSi
reactant | tert-butyllithium | 2.4 mmol, 1.54 mol/l, 1.56 ml | C(C)(C)(C)[Li]
reactant | 1-hexynylcopper | 174 mg | C(#CCCCC)[Cu]
reactant | (4R)-4-(tert-butyldimethylsiloxy)-2-(5-methoxycarbonylpentylthio)-2-cyclopenten-1-one | 1.0 mmol, 373 mg | O([Si](C)(C)C(C)(C)C)[C@H]1C=C(C(C1)=O)SCCCCCC(=O)OC | C18H32O4SSi
reactant | benzoic anhydride | 611 mg | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
solvent | hexamethylphosphorous triamide | 436 μl | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | methyl (11R,12S,13E,15S,17R)-9-benzoyloxy-11,15-bis(tert-butyldimethylsiloxy)-17,20-dimethyl-7-thiaprosta-8,13-dienoate | 734 mg, 98% | C(C1=CC=CC=C1)(=O)OC1=C(SCCCCCC(=O)OC)[C@H]([C@@H](C1)O[Si](C)(C)C(C)(C)C)\C=C\[C@H](C[C@@H](CCCC)C)O[Si](C)(C)C(C)(C)C | C41H70O6SSi2
